US06495546B1
A mixture of 3-nitro-6,7,8,9-tetrahydrobenzocyclohepten-5-one (14.87 g), iron (14.87 g) and ammonium chloride (2.0 g) in ethanol (200 ml) and water (40 ml) was refluxed for 5 hours, and filtered. The filtrate was evaporated in vacuo to afford 3-amino-6,7,8,9-tetrahydrobenzocyclohepten-5-one (12.86 g).

reactant | 3-nitro-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 14.87 g | [N+](=O)([O-])C1=CC2=C(CCCCC2=O)C=C1 | C11H11NO3
reactant | ammonium chloride | 2.0 g | [Cl-].[NH4+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
catalyst | iron | 14.87 g | [Fe] | Fe
product | 3-amino-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 12.86 g | NC1=CC2=C(CCCCC2=O)C=C1 | C11H13NO
